US04299972
A process according to claim 1 for the preparation of 3-phenoxybenzyl-[3-(2,2-dichlorovinyl)-2,2-dimethyl-cyclopropanecarboxylate], which comprises reacting 3-(2,2-dichlorovinyl)-2,2-dimethyl-cyclopropanecarboxylic acid with dimethylchloromethylydene-ammonium chloride and further reacting dimethyl-[3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarbonyloxy]-methylydene-ammonium chloride obtained with 3-phenoxybenzyl alcohol in the presence of said organic base.

reactant | 3-phenoxybenzyl-[3-(2,2-dichlorovinyl)-2,2-dimethyl-cyclopropanecarboxylate] | O(C1=CC=CC=C1)C=1C=C(CC2(C(C2C=C(Cl)Cl)(C)C)C(=O)[O-])C=CC1
reactant | 3-(2,2-dichlorovinyl)-2,2-dimethyl-cyclopropanecarboxylic acid | ClC(=CC1C(C1C(=O)O)(C)C)Cl | C8H10Cl2O2
product | 3-phenoxybenzyl alcohol | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
